US07615642B2
Step B. Ethyl (3R)-1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}piperidine-3-carboxylate
A suspension of 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (300 mg, 0.80 mmol) in DCE (5 mL) was slowly added to a solution of ethyl (3R)-piperidine-3-carboxylate (140 mg, 0.88 mmol) and DIPEA (1.4 mL, 8.0 mmol) in DCE (25 mL). The reaction mixture was stirred overnight at ambient temperature and the solvent was concentrated. The product was purified by MPLC on silica gel using 60-90% EtOAc/Heptane to provide the title compound as white solid. Yield: 265 mg (66%); 1H NMR (400 MHz, CDCl3) δ 1.26 (t, J=7.13 Hz, 3 H), 1.33 (td, J=12.55, 4.00 Hz, 1 H), 1.50-1.57 (m, 3 H), 1.59 (s, 9 H), 1.62-1.71 (m, 2 H), 1.72-1.84 (m, 1 H), 1.90-2.02 (m, 1 H), 2.22-2.38 (m, 2 H), 2.44 (t, J=11.03 Hz, 1 H), 2.57-2.69 (m, 1 H), 3.28-3.41 (m, 2 H), 3.70 (d, J=11.33 Hz, 1 H), 3.91 (dd, J=11.43, 3.81 Hz, 1 H), 4.01 (dd, J=11.23, 2.83 Hz, 2 H), 4.13 (q, J=7.16 Hz, 2 H), 4.25 (d, J=7.42 Hz, 2 H), 7.43 (d, J=8.59 Hz, 1 H), 7.64 (dd, J=8.40, 1.76 Hz, 1 H), 8.18 (d, J=1.17 Hz, 1 H); MS (ESI) (M+H)+=492.0.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.80 mmol, 300 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | ethyl (3R)-piperidine-3-carboxylate | 0.88 mmol, 140 mg | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
reactant | DIPEA | 8.0 mmol, 1.4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
solvent | DCE | 25 mL | ClCCCl | C2H4Cl2
product | Ethyl (3R)-1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}piperidine-3-carboxylate | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C[C@@H](CCC2)C(=O)OCC | C25H37N3O5S
